US07893049B2
Z-5) 1-(2-chloro-4-dimethylaminomethylphenyl)-3-pyridin-3-yl-4,5-dihydro-1H-pyrazolo[4,3-g]benzothiazol-7-ylamine
Under an argon atmosphere at −78° C. a solution of lithium aluminium hydride (1 M in THF, 3 mL) is added to a solution of 4-(7-amino-3-pyridin-3-yl-4,5-dihydro-pyrazolo[4,3-g]benzothiazol-1-yl)-3-chloro-N,N-dimethylbenzamide (PCT/EP05055021) (0.46 g, 1 mmol) in 25 mL dry THF. After 5 min the cooling bath is removed and the reaction mixture is heated to RT. Then while cooling, 1 mL of water is added dropwise and the mixture is stirred for 30 min. The precipitate is filtered and the filtrate evaporated down.

reactant | lithium aluminium hydride | 1 M, 3 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(7-amino-3-pyridin-3-yl-4,5-dihydro-pyrazolo[4,3-g]benzothiazol-1-yl)-3-chloro-N,N-dimethylbenzamide | 1 mmol, 0.46 g | NC=1SC2=C(N1)CCC1=C2N(N=C1C=1C=NC=CC1)C1=C(C=C(C(=O)N(C)C)C=C1)Cl | C22H19ClN6OS
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 1-(2-chloro-4-dimethylaminomethylphenyl)-3-pyridin-3-yl-4,5-dihydro-1H-pyrazolo[4,3-g]benzothiazol-7-ylamine | ClC1=C(C=CC(=C1)CN(C)C)N1N=C(C2=C1C1=C(N=C(S1)N)CC2)C=2C=NC=CC2 | C22H21ClN6S
